US04161528
(a) N-(2-Hydroxy-ethyl)-3-chloro-aniline
A mixture consisting of 50.8 gm of 3-chloro-aniline, 36 gm of ethylenechlorohydrin and 50 gm of anhydrous sodium carbonate was refluxed for four hours, while stirring. Thereafter, the reaction mixture was suction-filtered while still hot, and the filter cake was washed with ethyl acetate. The filtrate was then distilled in vacuo; the desired product passed over at 182° C./14 mm Hg.

reactant | 3-chloro-aniline | 50.8 gm | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | ethylenechlorohydrin | 36 gm | C(CO)Cl | C2H5ClO
reactant | sodium carbonate | 50 gm | C([O-])([O-])=O.[Na+].[Na+]
product | N-(2-Hydroxy-ethyl)-3-chloro-aniline | OCCNC1=CC(=CC=C1)Cl | C8H10ClNO
